US07030139B2
16A: N,N-Diethyl-4-(isopentylamino)-3-nitrobenzamide.
Following general procedure 2B, N,N-diethyl-4-fluoro-3-nitrobenzamide (1.077 g, 4.48 mmol) and 3-methyl-1-butanamine (0.68 mL, 5.83 mmol) were stirred at 85° C. for 14 h to provide the title compound (1.425 g) as an orange oil. The crude product was used in subsequent steps. 1H-NMR (CD3OD): δ 8.22 (d, J=2.0 Hz, 1H), 7.56 (dd, J=9.2 Hz, J=2.0 Hz, 1H), 7.09 (d, J=9.2 Hz, 1H), 3.52–3.40 (br m, 6H), 1.83–1.72 (m, 1H), 1.64 (q, J=7.6 Hz, 2H), 1.23 (t, J=7.6 Hz, 6H), 1.01 (d, J=6.8 Hz, 6H). MS (ESI) (M+H)+=308.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 4.48 mmol, 1.077 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | 3-methyl-1-butanamine | 5.83 mmol, 0.68 mL | CC(CCN)C | C5H13N
product | N,N-Diethyl-4-(isopentylamino)-3-nitrobenzamide | 1.425 g | C(C)N(C(C1=CC(=C(C=C1)NCCC(C)C)[N+](=O)[O-])=O)CC | C16H25N3O3
